Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
bleeding
 
Major Surgical or Invasive Procedure:
Blood transfusion: 2 units PRBC ___

 
History of Present Illness:
___ h/o bipolar disorder I, PTSD, DVT and PE, anemia, uterine 
fibroids, menorrhagia, alcohol use disorder who is brought in by 
EMS after throwing knife at step-father during verbal alteration 
and was found to have anemia.  

Regarding the altercation with the knife, which the patient 
denied, please see psychiatry note with 8 paragraphs of history 
for additional details.  To very briefly summarize, she was 
intoxicated and then displayed non-cooperative behavior and 
possible paranoia with the interviewer. She was noted to have 
anemia which was why she was admitted to medicine. When I meet 
and ask ___ brought her here, she states, "I was drunk and 
fighting."  

Re: bleeding; this is vaginal, associated with fibroids, worse 
with her periods, and moderate in severity.  It improved with 
Depoprovera shots but she has not had one of these in months. 
She was initially on Coumadin for possible DVT or PE (Dx "3 or ___ 
years ago") though  she is very uncertain of details. She states 
that the menorrhagia was worse on anticoagulation and improved 
when she stopped. She denies rectal bleeding or any trauma or 
other bleeding sites.  She states she is supposed to take oral 
iron but has not been doing this.  Overall, she states that she 
feels very tired and would like to go back to sleep.    

ROS: Positive for pain at blood drawn and IV sites, but negative 
for abdominal pain, nausea, vomiting, shakiness, or current 
anxiety.  Pertinent positives and negatives as noted in the HPI. 
 All other systems were reviewed and are negative. 
 
Past Medical History:
bipolar disorder I, PTSD, DVT and PE, anemia, uterine fibroids,
menorrhagia, alcohol use disorder 
 
Social History:
___
Family History:
Reviewed and found to be not relevant to this illness/reason for 
hospitalization.
 
Physical Exam:
-VITALS: reviewed, afebrile 
-GENERAL: Alert and in no apparent distress
-HEENT: moist mucus membranes, atraumatic 
-CV: Heart regular rate; normal perfusion, no appreciable JVD
-RESP: clear b/l, no wheeze 
-GI: soft, non-distended, nontender, bowel sounds present.  
-GU: no foley 
-MSK: Neck supple, normal muscle bulk and tone 
-SKIN: No rashes or ulcerations noted
-NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI, speech fluent, moves all limbs, sensation to light touch 
grossly intact throughout
-PSYCH: initially appropriate with labile mood with paranoia 
 
Pertinent Results:
ADMISSION LABS 
___ 03:45AM BLOOD WBC-6.1 RBC-3.76* Hgb-6.6* Hct-25.4* 
MCV-68* MCH-17.6* MCHC-26.0* RDW-23.1* RDWSD-50.4* Plt ___
___ 03:45AM BLOOD Neuts-55.2 ___ Monos-5.4 Eos-1.8 
Baso-0.5 NRBC-0.3* Im ___ AbsNeut-3.36 AbsLymp-2.25 
AbsMono-0.33 AbsEos-0.11 AbsBaso-0.03
___ 04:30AM BLOOD ___ PTT-25.6 ___
___ 03:45AM BLOOD Glucose-85 UreaN-10 Creat-0.6 Na-144 
K-3.5 Cl-104 HCO3-20* AnGap-20*
___ 03:45AM BLOOD ALT-12 AST-24 LD(LDH)-243 AlkPhos-61 
TotBili-0.2
___ 03:45AM BLOOD Albumin-4.4 Iron-14*
___ 02:15PM BLOOD Calcium-7.9* Phos-3.6 Mg-2.0
___ 03:45AM BLOOD calTIBC-581* VitB12-175* Folate-7 
___ Ferritn-6.5* TRF-447*
___ 03:45AM BLOOD ASA-NEG ___ Acetmnp-NEG 
Tricycl-NEG
___ 02:31PM BLOOD Lactate-2.1*

DISCHARGE LABS
___ 11:05AM BLOOD WBC-6.0 RBC-4.25 Hgb-8.9* Hct-31.5* 
MCV-74* MCH-20.9* MCHC-28.3* RDW-27.6* RDWSD-66.4* Plt ___
___ 03:45AM BLOOD calTIBC-581* VitB12-175* Folate-7 
___ Ferritn-6.5* TRF-447*
___ 03:45AM BLOOD Albumin-4.4 Iron-14*

 
Brief Hospital Course:
___ h/o bipolar disorder I, PTSD, DVT/PE, anemia, uterine 
fibroids, menorrhagia, & alcohol use disorder who was brought in 
by EMS after throwing knife at step-father while intoxicated.  
Admitted to medicine for anemia on a ___. 

1. Acute on chronic blood loss iron-deficiency anemia h/o 
menorrhagia and fibroid uterus
-Hemoglobin 5.7 on admission s/p 2Units PRBC with improvement to 
9. She was continued on PO iron (although noncompliant 
outpatient) and was given IV iron daily x3 doses (___).  
She is also noncompliant with medications to manage menorrhagia 
(Depo-Provera injections).  Recommend outpatient follow up with 
gynecology, which she seems hesitant to do, and PCP to monitor 
CBC.   

2. EtOH intoxication
-Started on CIWA protocol with PRN valium. Multivitamin, 
thiamine, and folic acid during admission. 

3. Homicidal ideation h/o PTSD and bipolar I
-Attacked step-father with a knife while intoxication admitted 
on a ___ for homicidal ideation with 1:1 sitter. 
Psychiatry started her on risperidone with improvement but 
patient without insignt and continued paranoia at risk for 
repeat behavior at discharge. Because of this psychiatry 
recommends inpatinet psychiatric admission. 

4. Anion gap metabolic acidosis
-Multifactorial in setting of EtOH intoxication and starvation 
ketosis, which has since resolved. 

>30 minutes spent on discharge planning 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. MedroxyPROGESTERone Acetate Dose is Unknown  IM ASDIR : she 
has not been taking this 

 
Discharge Medications:
1.  Ferrous Sulfate 325 mg PO DAILY  
2.  RisperiDONE 0.5 mg PO DAILY  
3.  RisperiDONE 1 mg PO QHS  
4.  RisperiDONE 1 mg PO QHS  
5. HELD- MedroxyPROGESTERone Acetate Dose is Unknown  IM ASDIR  
This medication was held. Do not restart MedroxyPROGESTERone 
Acetate until you follow up with your gynecologist to resume

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Acute on chronic blood loss anemia
Menorrhagia, uterine fibroids
Homicidal ideation
Alcohol abuse with intoxication 

 
Discharge Condition:
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
Mental Status: Clear and coherent.

 
Discharge Instructions:
Ms. ___,

You were admitted with alcohol intoxication after throwing a 
knife at your step father.  You were seen by the psychiatry team 
who adjusted your medications.  They do not feel you are safe 
for discharge home at this time and you are being transferred to 
an inpatient psychiatry facility for further treatment. 

Your hemoglobin was found to be low (anemia) due to heavy 
periods with a history of fibroids.  You received blood and iron 
transfusions with improvement in your blood work. Please 
continue to take iron and follow up with your gynecologist to 
discuss further management/medications. 

It was a pleasure taking care of you.
-Your ___ team 
 
Followup Instructions:
___